US04943580
A mixture of 14 parts of ethyl 4-[[3-(2-hydroxyethyl)-3H-imidazo[4,5-b]pyridin-2-yl]amino]-1-piperidinecarboxylate, 22 parts of potassium hydroxide and 160 parts of 2-propanol was stirred overnight at reflux temperature. The reaction mixture was evaporated and the residue was taken up in water. The aqueous layer was salted out with potassium carbonate and the product was extracted with tetrahydrofuran. The extract was dried, filtered and evaporated. The residue was crystallized from acetonitrile. The product was filtered off and dried, yielding 5.5 parts (52.3%) of 2-(4-piperidinylamino)-3H-imidazo[4,5-b]pyridine-3-ethanol; mp. 156.9° C. (compound 20).

reactant | ethyl 4-[[3-(2-hydroxyethyl)-3H-imidazo[4,5-b]pyridin-2-yl]amino]-1-piperidinecarboxylate | OCCN1C(=NC=2C1=NC=CC2)NC2CCN(CC2)C(=O)OCC | C16H23N5O3
reactant | potassium hydroxide | [OH-].[K+]
solvent | 2-propanol | CC(C)O | C3H8O
product | 2-(4-piperidinylamino)-3H-imidazo[4,5-b]pyridine-3-ethanol | 52.3% | N1CCC(CC1)NC1=NC=2C(=NC=CC2)N1CCO | C13H19N5O
